US07470680B2
tert-butyl 4-(3-(2,2-dimethoxyethyl)ureido)piperidine-1-carboxylate.
4-Amino-1-Boc-piperidine (1.02 g, 5.09 mmol) was dissolved in dichloromethane (25 mL). Aqueous sodium bicarbonate solution was added to the mixture followed by 20% phosgene in toluene (3.2 mL, 6.08 mmol). Mixture stirred vigorously at room temperature for 45 minutes. Aminoacetaldehyde dimethyl acetal (760 μl, 6.98 mmol) was added to the mixture. Reaction stirred vigorously at room temperature for 30 minutes. Reaction layers were partitioned. Aqueous layer was back extracted with dichloromethane and the aqueous phase was discarded. Organic phases were combined. Mixture was dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as pale yellow oil in 96% yield. MS (M−H)−=330.2.

reactant | 4-Amino-1-Boc-piperidine | 5.09 mmol, 1.02 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 6.08 mmol, 3.2 mL | C1(=CC=CC=C1)C | C7H8
reactant | Aminoacetaldehyde dimethyl acetal | 6.98 mmol, 760 μl | COC(CN)OC | C4H11NO2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(3-(2,2-dimethoxyethyl)ureido)piperidine-1-carboxylate | 96% yield | COC(CNC(NC1CCN(CC1)C(=O)OC(C)(C)C)=O)OC | C15H29N3O5
